US07138425B2
a) 2-(2-Fluoro-5-nitrophenyl)-5-(2-benzofuranyl)benzoxazole
Prepared by the method of Example 15d), from 2-(2-fluoro-5-nitrophenyl)-5-bromobenzoxazole (1.00 g, 3.0 mmol) and benzofuran-2-boronic acid (728 mg, 4.50 mmol) the subtitle compound was obtained (208 mg, 18%). The product was used directly in the next step without purification.

reactant | 2-(2-fluoro-5-nitrophenyl)-5-bromobenzoxazole | 3.0 mmol, 1.00 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C=1OC2=C(N1)C=C(C=C2)Br | C13H6BrFN2O3
reactant | benzofuran-2-boronic acid | 4.50 mmol, 728 mg | O1C(=CC2=C1C=CC=C2)B(O)O | C8H7BO3
product | 2-(2-Fluoro-5-nitrophenyl)-5-(2-benzofuranyl)benzoxazole | FC1=C(C=C(C=C1)[N+](=O)[O-])C=1OC2=C(N1)C=C(C=C2)C=2OC1=C(C2)C=CC=C1 | C21H11FN2O4
